US05965740
To a mixture of 0.42 g (1.3 mmol) of 2-[2-(2,5-dimethylphenoxymethyl)-α-hydroxybenzyl]pyridine, 4 ml of N,N-dimethylformamide and 0.12 ml (2 mmol) of methyl iodide was added 0.07 g (1.7 mmol) of 60% sodium hydride under ice-cooling and stirred at the same temperature for 3 hours. After completion of the reaction, 100 ml of ether was added and washed twice with 80 ml of brine. The ether layer was dried over anhydrous magnesium and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 2-[2-(2,5-dimethylphenoxymethyl)-α-methoxybenzyl]pyridine (0.40 g, 92.3%) as colorless oil.

reactant | 2-[2-(2,5-dimethylphenoxymethyl)-α-hydroxybenzyl]pyridine | 1.3 mmol, 0.42 g | CC1=C(OCC2=C(C(O)C3=NC=CC=C3)C=CC=C2)C=C(C=C1)C | C21H21NO2
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 2 mmol, 0.12 ml | CI | CH3I
reactant | sodium hydride | 1.7 mmol, 0.07 g | [H-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-[2-(2,5-dimethylphenoxymethyl)-α-methoxybenzyl]pyridine | 0.40 g, 92.3% | CC1=C(OCC2=C(C(OC)C3=NC=CC=C3)C=CC=C2)C=C(C=C1)C | C22H23NO2
